US06949542B2
(2-{3-[3-(2-Methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J36) (239 mg, 0.75 mmol) and 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K12) (234 mg, 0.75 mmol) according to the general procedure M. Obtained as a light yellow foam (292 mg, 70%).

reactant | (2-amino-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 239 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CCC)C(F)(F)F)N)=O | C15H21F3N2O2
reactant | 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 234 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O | C19H21NO3
product | (2-{3-[3-(2-Methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C30H32F3N3O4
